US08193351B2
Step 9: 7-Chloroisochromane-6-carboxamidine
A solution of trimethyl amine in toluene (5 ml, 9.8 mmol) was added to a solution of ammonium chloride (0.6 g, 11.1 mmol) in toluene (3 mL) at 0 to 5° C. After the mixture was stirred at room temperature for 1 hour, a mixture (50 mg, 0.26 mmol) of 7-chloroisochromane-6-carbonitrile and 5-chloroisochromane-6-carbonitrile was added thereto. The reaction solution was stirred while heating under reflux overnight. After the reaction solution was cooled to room temperature, an aqueous solution of 2N sodium hydroxide was added and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a 1:0.5 mixture (44 mg, 81%) of the title compound and 5-chloroisochromane-6-carboxamidine.

reactant | trimethyl amine | CN(C)C | C3H9N
reactant | ammonium chloride | 11.1 mmol, 0.6 g | [Cl-].[NH4+]
reactant | 7-chloroisochromane-6-carbonitrile | 0.26 mmol, 50 mg | ClC1=C(C=C2CCOCC2=C1)C#N | C10H8ClNO
reactant | 5-chloroisochromane-6-carbonitrile | ClC1=C2CCOCC2=CC=C1C#N | C10H8ClNO
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 9.8 mmol, 5 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Chloroisochromane-6-carboxamidine | 44 mg, 81% | ClC1=C(C=C2CCOCC2=C1)C(=N)N | C10H11ClN2O
